US08912218B2
1.2. 2-[5′-(4-Fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethanol
Under an inert atmosphere, 3.6 g (12.62 mmol) of 2-(5′-bromo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)ethanol, prepared in step 1.1., 3.53 g (25.25 mmol) of 4-fluorophenylboronic acid, 5.23 g (37.87 mmol) of potassium carbonate and 4.88 g (15.15 mmol) of tetrabutylammonium bromide in suspension in 20 ml of water are introduced. Subsequently, 0.142 g (0.63 mmol) of Pd(OAc)2 is added. The reaction mixture is subsequently heated at reflux for 24 hours.

reactant | 2-(5′-bromo-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl)ethanol | 12.62 mmol, 3.6 g | BrC=1C=CC(=NC1)N1CCC(CC1)CCO | C12H17BrN2O
reactant | 4-fluorophenylboronic acid | 25.25 mmol, 3.53 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 37.87 mmol, 5.23 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 15.15 mmol, 4.88 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 20 ml | O | H2O
catalyst | Pd(OAc)2 | 0.63 mmol, 0.142 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-[5′-(4-Fluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]ethanol | FC1=CC=C(C=C1)C=1C=CC(=NC1)N1CCC(CC1)CCO | C18H21FN2O
